US07279473B2
N-Cyclopropyl-N-methyl-4-pyrazolo[1,5-b]pyridazin-3-yl-2-pyrimidinamine
To a solution of N-cyclopropyl-4-pyrazolo[1,5-b]pyridazin-3-yl-2-pyrimidinamine (25 mg, 0.1 mmol) in DMF (2 mL) was added sodium hydride (6 mg, 0.25 mmol) and methyl iodide (0.013 mL, 0.15 mmol). The reaction was allowed to stir for about 1 hour. The reaction was concentrated in vacuo. Water (10 mL) was added and the aqueous layer was extracted with EtOAc (2×30 mL). The combined organic layers were dried (MgSO4) filtered and concentrated in vacuo. The residue was triturated with diethylether to give the title compound as light orange solid (20 mg, 80%). 1H-NMR (400 MHz, CDCl3) δ 9.07 (d, 1H, J=8.8 Hz), 8.46 (s, 1H), 8.35 (m, 2H) 7.12 (dd, 1H, J=8.8, 4.4 Hz), 6.89 (d, 1H, J=5.6 Hz), 3.23 (s, 3H), 2.85 (m, 1H), 0.94 (m, 2H), 0.73 (m, 2H); MS (ESI) (M+H)+ 267.

reactant | N-cyclopropyl-4-pyrazolo[1,5-b]pyridazin-3-yl-2-pyrimidinamine | 0.1 mmol, 25 mg | C1(CC1)NC1=NC=CC(=N1)C=1C=NN2N=CC=CC21 | C13H12N6
reactant | sodium hydride | 0.25 mmol, 6 mg | [H-].[Na+]
reactant | methyl iodide | 0.15 mmol, 0.013 mL | CI | CH3I
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | N-Cyclopropyl-N-methyl-4-pyrazolo[1,5-b]pyridazin-3-yl-2-pyrimidinamine | 20 mg, 80% | C1(CC1)N(C1=NC=CC(=N1)C=1C=NN2N=CC=CC21)C | C14H14N6
